US06803374B2
A suspension of 4-bromo-3-methylbenzoic acid (10 g, 46.5 mmol) was heated to 80° C. and N,N-dimethylformamide di-tert-butyl acetal (44.6 mL, 186.0 mmol) was added dropwise over 30 minutes under a nitrogen atmosphere; stirring was continued at this temperature for 1.5 h. The reaction mixture was allowed to cool and then washed with water (1×), saturated NaHCO3 (1×), and brine (1×). The organic layer was dried (Na2SO4) and concentrated to afford tert-Butyl 4-bromo-3-methylbenzoate (as an off-white oil (8.8 g, 70%). ESI-MS m/e 311.9 (M+CH3CN+1).

reactant | 4-bromo-3-methylbenzoic acid | 46.5 mmol, 10 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | N,N-dimethylformamide di-tert-butyl acetal | 186.0 mmol, 44.6 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
product | tert-Butyl 4-bromo-3-methylbenzoate | BrC1=C(C=C(C(=O)OC(C)(C)C)C=C1)C | C12H15BrO2
